US08865726B2
To a stirred mixture of (R)-2-amino-2-(2,4-difluorophenyl)ethanol hydrochloride (0.58 g, 2.8 mmol) in THF (18 mL) was added Et3N (1.2 mL, 8.9 mmol). The reaction mixture was cooled in an ice bath under N2. A solution of triphosphene (0.33 g, 1.1 mmol) in THF (10 mL) was added. The reaction was allowed to warm to ambient temperature and stirred for 2 hours. The reaction mixture was partitioned between EtOAc and saturated aqueous NaHCO3. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried and concentrated. The residue was purified by column chromatography (EtOAc/hexane, 1:1) to give (R)-4-(2,4-difluorophenyl)oxazolidin-2-one (0.50 g, 91%).

reactant | (R)-2-amino-2-(2,4-difluorophenyl)ethanol hydrochloride | 2.8 mmol, 0.58 g | Cl.N[C@@H](CO)C1=C(C=C(C=C1)F)F
reactant | Et3N | 8.9 mmol, 1.2 mL | CCN(CC)CC | C6H15N
reactant | triphosphene | 1.1 mmol, 0.33 g | P=PP | H3P3
reactant | THF | 18 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-4-(2,4-difluorophenyl)oxazolidin-2-one | 0.50 g, 91% | FC1=C(C=CC(=C1)F)[C@H]1NC(OC1)=O | C9H7F2NO2
